### ISSUE TITLE
misformalisation(CryptoFoundations/Fork): `finSupport_map_prod_map_fork`

### ISSUE THREAD

**Issue by pitmonticone** [Verified-zkEVM/VCV-io#94]
The lemma `finSupport_map_prod_map_fork` was negated by @Aristotle-Harmonic as follows: 

```lean
import VCVio.CryptoFoundations.SecExp
import VCVio.OracleComp.QueryTracking.SeededOracle
import VCVio.OracleComp.QueryTracking.LoggingOracle
import VCVio.OracleComp.Coercions.Append

import Mathlib

open Lean Meta Elab Tactic in
elab "revert_all" : tactic => do
  let goals ← getGoals
  let mut newGoals : List MVarId := []
  for mvarId in goals do
    newGoals := newGoals.append [(← mvarId.revertAll)]
  setGoals newGoals

open Lean.Elab.Tactic in
macro "negate_state" : tactic => `(tactic|
  (
    guard_goal_nums 1
    revert_all
    refine @(((by admit) : ∀ {p : Prop}, ¬p → p) ?_)
    try (push_neg; guard_goal_nums 1)
  )
)

/- ... -/

noncomputable section AristotleLemmas

/-- If `(x₁, x₂)` is in the support of `fork`, then `cf x₁ = cf x₂` and `cf x₁` is not `none`. -/
lemma support_fork_subset (main : OracleComp spec α) (qb : ι → ℕ) (js : List ι) (i : ι)
    (cf : α → Option (Fin (qb i + 1))) (x₁ x₂ : α) :
    (x₁, x₂) ∈ (main.fork qb js i cf).support → cf x₁ = cf x₂ ∧ (cf x₁).isSome := by
      -- By definition of `fork`, if `(x₁, x₂)` is in the support of `fork main qb js i cf`,
      -- then `cf x₁ = cf x₂` and `cf x₁` is not `none`.
      simp [fork] at *;
      unfold Option.getM at * ; aesop ( simp_config := { singlePass := true } )

/-- The pair `(none, none)` is never in the support of the mapped fork computation. -/
lemma none_none_not_mem_support_map_fork (main : OracleComp spec α)
    (qb : ι → ℕ) (js : List ι) (i : ι)
    (cf : α → Option (Fin (qb i + 1))) :
    (none, none) ∉ (Prod.map cf cf <$> main.fork qb js i cf).support := by
  intro h
  simp only [support_map, Set.mem_image, Prod.exists] at h
  rcases h with ⟨x₁, x₂, hx, heq⟩
  have := support_fork_subset main qb js i cf x₁ x₂ hx
  simp [Prod.map] at heq
  rw [heq.1] at this
  simp at this

/-- Counterexample to `finSupport_map_prod_map_fork`. -/
lemma finSupport_map_prod_map_fork_counterexample :
    ∃ (ι : Type) (_inst : DecidableEq ι) (spec : OracleSpec ι) (_h1 : spec.FiniteRange)
    (_h2 : spec.DecidableEq)
    (α : Type) (_h3 : DecidableEq α)
    (_h4 : ∀ i, SelectableType (spec.range i)) (_h5 : unifSpec ⊂ₒ spec)
    (main : OracleComp spec α) (qb : ι → ℕ) (js : List ι) (i : ι)
    (cf : α → Option (Fin (qb i + 1))),
    (Prod.map cf cf <$> main.fork qb js i cf).finSupport ≠
    (cf <$> main).finSupport.image fun s => (s, s) := by
  let ι := ℕ
  let spec := unifSpec
  have h5 : unifSpec ⊂ₒ spec := { monadLift := id }
  use ι, inferInstance, spec, inferInstance, inferInstance
  use Unit, inferInstance
  use (fun i => inferInstance), h5
  let main : OracleComp spec Unit := pure ()
  let qb : ι → ℕ := fun _ => 0
  let js : List ι := []
  let i : ι := 0
  let cf : Unit → Option (Fin (qb i + 1)) := fun _ => none
  use main, qb, js, i, cf
  intro h_eq
  have h_rhs_mem : (none, none) ∈ (cf <$> main).finSupport.image (fun s => (s, s)) := by
    simp [main, cf]
  rw [← h_eq] at h_rhs_mem
  rw [mem_finSupport_iff_mem_support] at h_rhs_mem
  have h_not_mem := none_none_not_mem_support_map_fork main qb js i cf
  contradiction

end AristotleLemmas

@[simp] lemma finSupport_map_prod_map_fork : (Prod.map cf cf <$> main.fork qb js i cf).finSupport =
    (cf <$> main).finSupport.image fun s => (s, s) := by
  convert finSupport_map_prod_map_fork_counterexample using 1
  constructor <;> intro h
  · exact finSupport_map_prod_map_fork_counterexample
  · -- Wait, there's a mistake. We can actually prove the opposite.
    negate_state;
    -- Proof starts here:
    -- Let's choose any `ι` with a single element and define the corresponding `spec`.
    obtain ⟨ι, hι⟩ := finSupport_map_prod_map_fork_counterexample
    -- Use the hypothesis `hι` to obtain the necessary components and then use them to construct
    -- the required existence statement.
    obtain ⟨inst, spec, h1, h2, α, h3, h4, h5, main, qb, js, i, cf, h_neq⟩ := hι
    -- Use the hypothesis `h_neq` to obtain the necessary components and then use them to construct
    -- the required existence statement.
    use ι, inst, spec, h4, h2, h5, α, main, qb, js, i, cf, h1, ⟨ι, inst, spec, h1, h2, α, h3, h4,
    h5, main, qb, js, i, cf, h_neq⟩, h_neq
```

**Comment by dtumad** [comment]
Closed for same reason as: https://github.com/Verified-zkEVM/VCV-io/issues/95
